US06589978B2
(2RS,5SR)-5-Cyclopropyl-3-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl-methyl]-[1,2,4]oxadiazole
The title compound, pale yellow oil, MS: m/e=442.3 (M+H+) was prepared in accordance with the general method of example 13 from (2RS,5SR)-2-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-N-hydroxy-acetamidine and cyclopropyl-carboxylic acid.

reactant | (2RS,5SR)-2-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-N-hydroxy-acetamidine | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CC(=N)NO | C19H22FN3O3S
reactant | cyclopropyl-carboxylic acid | C1(CC1)C(=O)O | C4H6O2
product | (2RS,5SR)-5-Cyclopropyl-3-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl-methyl]-[1,2,4]oxadiazole | C1(CC1)C1=NC(=NO1)CC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C23H24FN3O3S
